* generic_opamp.lib - generic single-pole op-amp macro model. AUTHORED
* (not derived from any vendor file). Trivial disposable test-fixture
* subcircuit, NOT a foundry/vendor part.
*
* Behavioral macro-model: open-loop DC gain 200,000 (~106 dB), single
* dominant pole at 1kHz (set by R1/C1 -> unity-gain bandwidth ~200MHz),
* ideal unity-gain output buffer stage. Supply pins (VCC/VEE) are
* present for pinout compatibility with real op-amp subckts but are
* NOT used internally - this model has no output swing clipping, no
* slew-rate limiting, no supply current draw. That is a known,
* intentional simplification - do not use this for anything beyond
* exercising the SPICE model-management pipeline.
*
* USAGE:
*   .include models/opamp/generic_opamp.lib
*   X1 inp inn vcc vee out OPAMP_GENERIC

.subckt OPAMP_GENERIC INP INN VCC VEE OUT
E1 n1 0 INP INN 200k
R1 n1 n2 1k
C1 n2 0 159.2n
Eout OUT 0 n2 0 1
.ends OPAMP_GENERIC
