* vom1271.lib - Vishay VOM1271, driver fotovoltaico per MOSFET con spegnimento rapido.
* VENDOR_DERIVED: copia di VOM1271.lib dentro
*   vendor/optocoupler/vishay/VOM1271/spicemodelvom1271.zip (zip intatto)
* con DUE modifiche per ngspice, e nient'altro: vedi vom1271.provenance.json.
*   originale:  D2 +Iout -Iout PD n=13
*   qui:        D2 +Iout -Iout PD13, .model PD13 = PD con N x 13 e RS x 13
*   e `.backanno` (annotazione LTspice, nessun effetto elettrico) commentata
* In LTspice `n` sull'istanza del diodo e' un moltiplicatore SERIE; ngspice
* non lo accetta ("unknown parameter (n)"). Controllo della lettura: Voc =
* 13 * N * Vt * ln(Isc/IS) = 13 * 1,7321 * 25,85 mV * ln(15e-6/8,377e-12)
* = 8,38 V, contro 8,4 V tipici del datasheet a IF = 10 mA.
*
* Library of Optocoupler - VOM1271 - MOSFET Driver
* Date: 23.10.2024
* Copyright VISHAY, Inc. 2018 All Rights Reserved.
*
* ==== VOM1271 ====
*
* A = IRED Anode
* K = IRED Cathode
* +Iout = MOSFET-Driver Positive Output
* -Iout = MOSFET-Driver Negative Output
*
*$

.SUBCKT VOM1271 A K +Iout -Iout

D1 A N005 TS8510VA
Vsense N005 K 0

H1 N001 0 Vsense 1
R1 N002 N001 10k
C1 N002 0 160p

RDUMMY -Iout 0 1G

G1 -Iout +Iout N002 0 0.0015
D2 +Iout -Iout PD13
S1 -Iout +Iout N004 0 FastTurnOff
V1 N003 0 1
R2 N004 0 10
C3 N004 0 10u
W1 N003 N004 Vsense CSW_1

.model TS8510VA D(IS=59.194E-18 N=1.6363 RS=1.0000E-6 IKF=10.526E-3 CJO=1.0000E-12 M=.3333 VJ=.75 BV=100 IBV=100.00E-6 TT=5.0000E-9)

.model PD D(IS=8.377E-12 N=1.7321 RS=16 IKF=9)
* L29b (ngspice): 13 celle in serie di PD = un diodo con N x 13 e RS x 13
.model PD13 D(IS=8.377E-12 N=22.5173 RS=208 IKF=9)

.model FastTurnOff SW(Ron=100Meg Roff=1 VT=521mV VH=0)

.model CSW_1 CSW(Ron=1m Roff=100Meg  It=10uA Ih=10uA)

* .backanno   (L29b: direttiva di sola annotazione LTspice, ngspice la rifiuta)
.ends

*$
**==================================================================*
* Note:                                                             *
* Although models can be a useful tool in evaluating device         *
* performance, they cannot model exact device performance           *
* under all conditions, nor are they intended to replace            *
* breadboarding for final verification!                             *
*                                                                   *
* Models provided by VISHAY Semiconductors GmbH are not             *
* as fully representing all of the specifications and operating     *
* characteristics of the semiconductor product to which the         *
* model relates.                                                    *
* The models describe the characteristics of typical devices.       *
* In all cases, the current data sheet information for a given      *
* device is the final design guideline and the only actual          *
* performance specification.                                        *
* VISHAY Semiconductors does not assume any liability arising       *
* from the model use. VISHAY Semiconductors reserves the right to   *
* change models without prior notice.				    *
**==================================================================*
